US04370277
62.4 g of malonic acid are dissolved in 100 ml of pyridine. After termination of the exothermal reaction, 99 g of 3-phenoxybenzaldehyde and 5 g of piperidine are added, the batch is refluxed for 3 hours, cooled to 25° C. and poured onto ice/concentrated hydrochloric acid in order to wash out pyridine and piperidine, while the acid precipitates in the form of crystals. After drying, 113.7 g (95% of theory) of 3-phenoxycinnamic acid, m.p. 107°-109° C., are obtained. 18 g (0.15 mol) of thionyl chloride are added to a suspension of 24 g (0.1 mol) of 3-phenoxycinnamic acid in 100 ml of toluene, and stirred for 3 hours at 30° C. After removal of the solvent in vacuo, distillation is carried out. 24.6 g (95% of theory) of 3-(2-phenoxyphenyl)-2-propenic acid chloride, b.p. 155°-158° C./0.2 mm Hg, are obtained.

reactant | malonic acid | 62.4 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | 3-phenoxybenzaldehyde | 99 g | O(C1=CC=CC=C1)C=1C=C(C=O)C=CC1 | C13H10O2
reactant | piperidine | 5 g | N1CCCCC1 | C5H11N
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 3-phenoxycinnamic acid | 113.7 g, 95% | O(C1=CC=CC=C1)C=1C=C(C=CC(=O)O)C=CC1 | C15H12O3
